US04247631
Uric Acid Analysis (Automated)
Three aqueous solutions were prepared: (1) An enzyme reagent solution containing 200 units per liter of uricase, 1400 units per liter of peroxidase, 0.35 millimoles per liter of 4-aminoantipyrine and 100 millimoles per liter of tris buffer; (2) a chromophore-buffer solution containing 5.0 millimoles per liter of 3-(N,N-dimethylamino)benzoic acid and 100 millimoles per liter of tris buffer; and (3) a sample buffer solution containing 100 millimoles per liter of tris buffer. The pH of each solution was 8.0.

reactant | uricase | C1=CN(C(=O)NC1=O)C2C(C(C(O2)COP(=O)(O)OC3C(OC(C3O)N4C=CC(=O)NC4=O)CO)O)O.N
reactant | 4-aminoantipyrine | 0.35 millimoles per liter | CC1=C(C(=O)N(N1C)C=2C=CC=CC2)N | C11H13N3O
reactant | 3-(N,N-dimethylamino)benzoic acid | 5.0 millimoles per liter | CN(C)C=1C=C(C(=O)O)C=CC1 | C9H11NO2
product | Uric Acid | N1C(=O)NC=2NC(=O)NC2C1=O | C5H4N4O3
